US09428470B2
E) 2,2′-(3-(5-(Benzyloxy)-2-bromophenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetic acid
A mixture of dimethyl 2,2′-(3-(5-(benzyloxy)-2-bromophenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate (12.0 g), THF (120 mL), methanol (120 mL), and a 1 M aqueous sodium hydroxide solution (120 mL) was stirred at room temperature for 3 hours. The reaction mixture was rendered acidic using 6 M hydrochloric acid at 0 C, and brine was added thereto, followed by extraction with ethyl acetate. The extract was washed with water and saturated saline and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure to obtain the title compound (9.75 g).

reactant | dimethyl 2,2′-(3-(5-(benzyloxy)-2-bromophenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetate | 12.0 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(CC(=O)OC)CC(=O)OC)Br | C22H22BrNO6
reactant | THF | 120 mL | C1CCOC1 | C4H8O
reactant | sodium hydroxide | 1 M, 120 mL | [OH-].[Na+]
reactant | hydrochloric acid | 6 M | Cl | ClH
solvent | brine | [Cl-].[Na+].O
solvent | methanol | 120 mL | CO | CH4O
product | 2,2′-(3-(5-(Benzyloxy)-2-bromophenyl)-4,5-dihydro-1,2-oxazole-5,5-diyl)diacetic acid | 9.75 g | C(C1=CC=CC=C1)OC=1C=CC(=C(C1)C1=NOC(C1)(CC(=O)O)CC(=O)O)Br | C20H18BrNO6
